US05622982
F) N-(4'-Chlorobiphenyl-4-carbonyl)-2(R)-phenyl-aziridine
To a solution of 0.232 g of 4'-chlorobiphenyl-4-carboxylic acid in 3 ml of dry DMF, 0.18 g of N,N'-carbonyl-diimidazole are added with stirring at room temperature under argon atmosphere. After one hour a solution of 0.12 g of phenyl-aziridine in 0.5 ml of dry DMF is added dropwise. The reaction mixture is stirred for 21 hours and thereafter worked up as described in example 1. The compound is obtained as a pale yellow oil and used without purification in the next step.

reactant | 4'-chlorobiphenyl-4-carboxylic acid | 0.232 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | phenyl-aziridine | 0.12 g | C1(=CC=CC=C1)N1CC1 | C8H9N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | N-(4'-Chlorobiphenyl-4-carbonyl)-2(R)-phenyl-aziridine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](C1)C1=CC=CC=C1 | C21H16ClNO
